US04977272
A solution of 0.1 mol of p-aminobenzaldehyde ethylene glycol acetal in 100 mL of anhydrous THF is added dropwise over 10 minutes to a solution of 0.1 mol of glycine isopropyl ester isocyanate and 0.35 mol pyridine in 100 mL THF at room temperature under N2. The reaction mixture is stirred at room temperature for 2 hours. After 2 hours the solvent is removed by rotary evaporator A solution of 0.11 mmol hydroxylamine hydrochloride and 0.1 mol trimethyl orthoformate in CH3OH is added, and the reaction mixture is heated to reflux under N2 for 1 hour. The reaction mixture is reduced to about 1/4 volume by rotary evaporator, and water is added. The product, N-[4-(hydroxyiminomethyl)phenyl]-N'-isopropoxycarbonylmethylurea, is isolated by filtration and dried in vacuo.

reactant | glycine isopropyl ester isocyanate | 0.1 mol | [N-]=C=O.C(C)(C)OC(CN)=O
reactant | pyridine | 0.35 mol | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine hydrochloride | 0.11 mmol | Cl.NO
reactant | trimethyl orthoformate | 0.1 mol | C(OC)(OC)OC | C4H10O3
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
solvent | CH3OH | CO | CH4O
product | N-[4-(hydroxyiminomethyl)phenyl]-N'-isopropoxycarbonylmethylurea | ON=CC1=CC=C(C=C1)NC(=O)NCC(=O)OC(C)C | C13H17N3O4
